US08049013B2
2-(4-Chloro-phenyl)-5-{3-methoxy-4-[1-(3,3,3-trifluoro-propionyl)-azetidin-3-yloxy]-phenyl}-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (100 mg, 0.226 mmol), and 3,3,3-trifluoropropionyl chloride (137 mg, 0.905 mmol) in dry pyridine (754.3 μL). Add 4-N,N-dimethylpyridine (2.9 mg, 0.0226 mmol) and stir the solution overnight. Add NaHSO4 solution and extract with EtOAc (2×20 mL). Combine the organic portions and wash with water (10 mL). Dry the organic solution with Na2SO4, filter, and concentrate in vacuo. Purify the crude material on silica gel chromatography, using an isocratic gradient of 80% EtOAc in hexanes, to give 88 mg (70%) of the title compound as a yellow solid. ES/MS m/z (35Cl) 552.8 [M+1]−.

reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 0.226 mmol, 100 mg | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H20ClN3O3S
reactant | 3,3,3-trifluoropropionyl chloride | 0.905 mmol, 137 mg | FC(CC(=O)Cl)(F)F | C3H2ClF3O
solvent | pyridine | 754.3 μL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Chloro-phenyl)-5-{3-methoxy-4-[1-(3,3,3-trifluoro-propionyl)-azetidin-3-yloxy]-phenyl}-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 88 mg, 70% | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)OC1CN(C1)C(CC(F)(F)F)=O)OC)=O | C25H21ClF3N3O4S
